US05223498
Reaction of 1-(2-aminophenyl)pyrrolidine (10 g) with methyl isothiocyanate (6.3 g) in dichloromethane (45 ml) at room temperature for 4 days gave 1-methyl-3-[2-(1-pyrrolidinyl)phenyl]thiourea (m.p. 125°-126° C.).

reactant | 1-(2-aminophenyl)pyrrolidine | 10 g | NC1=C(C=CC=C1)N1CCCC1 | C10H14N2
reactant | methyl isothiocyanate | 6.3 g | CN=C=S | C2H3NS
solvent | dichloromethane | 45 ml | ClCCl | CH2Cl2
product | 1-methyl-3-[2-(1-pyrrolidinyl)phenyl]thiourea | CNC(=S)NC1=C(C=CC=C1)N1CCCC1 | C12H17N3S
